US08440687B2
As indicated in Scheme II-D above, the desired mPEGn-O-fentanyl conjugates were prepared by first reacting 1-phenethylpiperidin-4-one with 3-aminophenol under reducing conditions to thereby convert the keto functionality into an amine, i.e., by reaction with the amino group of 3-aminophenol. The product, 3-(1-phenethylpiperidin-4-ylamino)phenol, was then reacted with propionic anhydride in the presence of base (e.g., triethyl amine) and dimethylaminopyridine (DMAP) under conditions effective to form N-(3-hydroxyphenyl)-N-(1-phenethylpiperidin-4-yl)propionamide. Finally, introduction of the oligomeric PEG functionality was carried out by reacting the precursor, N-(3-hydroxyphenyl)-N-(1-phenethylpiperidin-4-yl)propionamide, with a molar excess of mPEGoligotosylate under coupling conditions effective to form the desired conjugates. Ratios of reactants and reaction conditions generally employed are provided in the reaction schemes above.

reactant | 1-phenethylpiperidin-4-one | C(CC1=CC=CC=C1)N1CCC(CC1)=O | C13H17NO
reactant | 3-aminophenol | NC=1C=C(C=CC1)O | C6H7NO
reactant | 3-(1-phenethylpiperidin-4-ylamino)phenol | C(CC1=CC=CC=C1)N1CCC(CC1)NC=1C=C(C=CC1)O | C19H24N2O
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | triethyl amine | C(C)N(CC)CC | C6H15N
product | N-(3-hydroxyphenyl)-N-(1-phenethylpiperidin-4-yl)propionamide | OC=1C=C(C=CC1)N(C(CC)=O)C1CCN(CC1)CCC1=CC=CC=C1 | C22H28N2O2
